US05977105
c) (±)-1-(3'-Chlorobiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol
Prepared according to the method described in Example 24b) from (±)-α-(chloromethyl)-3-pyridinepropanol (1.0 g), 3'-chlorobiphenyl-4-ol (1.4 g), ethanol (30 ml) and aqueous sodium hydroxide (1.5 M, 5 ml) to give the title compound after purification as a white solid (0.34 g).

reactant | (±)-α-(chloromethyl)-3-pyridinepropanol | 1.0 g | ClCC(CCC=1C=NC=CC1)O | C9H12ClNO
reactant | 3'-chlorobiphenyl-4-ol | 1.4 g | ClC=1C=C(C=CC1)C1=CC=C(C=C1)O | C12H9ClO
reactant | sodium hydroxide | 1.5 M, 5 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (±)-1-(3'-Chlorobiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol | ClC=1C=C(C=CC1)C1=CC=C(C=C1)OCC(CCC=1C=NC=CC1)O | C21H20ClNO2
